US04277394
(II) Production of BOC-(D)-His-Gly-NHNH-COCH2CH3
BOC-(D)-His(Tos)-Gly-Phe-NHNH-COCH2CH3 (0.55 g) is suspended in MeOH (15 ml) and to this is added 1 N-sodium hydroxide solution (1 ml) at 0° C. The mixture is stirred for 60 min. at room temperature and evaporated. The residue is treated with acetonitrile to give a powder, which is washed with water and dried; yield 0.29 g. m.p. 261°-263° C., [α]D23 +9.5°(c=0.40, DMF), Rf2 =0.38

reactant | BOC-(D)-His(Tos)-Gly-Phe-NHNH-COCH2CH3 | 0.55 g | N([C@H](CC1=CN(C=N1)S(=O)(=O)C1=CC=C(C)C=C1)C(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NNC(=O)CC)C(=O)OC(C)(C)C | C32H41N7O8S
reactant | sodium hydroxide | 1 ml | [OH-].[Na+]
solvent | MeOH | 15 ml | CO | CH4O
product | BOC-(D)-His-Gly-NHNH-COCH2CH3 | N([C@H](CC1=CNC=N1)C(=O)NCC(=O)NNC(=O)CC)C(=O)OC(C)(C)C | C16H26N6O5
